US06194439B1
9-(Phenylmethylene)-1,2-dimethoxyfluorene;
9-((4-Quinolyl)methylene-1,2-dimethoxyfluorene; m.p. 210° C. (acetone/cyclohexane). Anal. Calcd. for C25H19NO2: C, 82.17; H, 5.24; N, 3.83. Found: C, 82.23; H, 5.00; N, 3.88.

reactant | (4-Quinolyl)methylene-1,2-dimethoxyfluorene | N1=CC=C(C2=CC=CC=C12)C=C1C(=C(C2=CC3=CC=CC=C3C2=C1)OC)OC | C25H19NO2
solvent | acetone cyclohexane | CC(=O)C.C1CCCCC1
product | 9-(Phenylmethylene)-1,2-dimethoxyfluorene | C1(=CC=CC=C1)C=C1C2=CC=CC=C2C=2C=CC(=C(C12)OC)OC | C22H18O2
